US09388173B2
Step 3: 6-Bromo-1,3-dimethyl-1H-indole
To a solution of 6-bromo-3-methyl-1H-indole (200 mg, 0.95 mmol) in DMF (8 mL) was added NaH (114 mg, 2.85 mmol, m %/60%). The mixture was stirred at room temperature for 1 h before the addition of MeI (162 mg, 1.14 mmol). The system was stirred at room temperature for 4 h then the mixture was quenched with water and extracted with EtOAc. The organic layer was concentrated to give crude product which was used in next step without further purification. LCMS (m/z): 224.1 [M+H]+.

reactant | 6-bromo-3-methyl-1H-indole | 0.95 mmol, 200 mg | BrC1=CC=C2C(=CNC2=C1)C | C9H8BrN
reactant | NaH | 2.85 mmol, 114 mg | [H-].[Na+]
reactant | MeI | 1.14 mmol, 162 mg | CI | CH3I
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-1,3-dimethyl-1H-indole | BrC1=CC=C2C(=CN(C2=C1)C)C | C10H10BrN
